### PR TITLE
chore(SetTheory/ZFC): add some basic lemmas on `ZFSet`

### PR DESCRIPTION
**Pull request by VTrelat**
Add some missing lemmas about emptiness and membership.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/ZFC/Basic.lean [hunk 1]
```diff
@@ -278,10 +278,23 @@ theorem nonempty_mk_iff {x : PSet} : (mk x).Nonempty ↔ x.Nonempty := by
...
+
+@[simp] theorem not_nonempty_is_empty {x : ZFSet} : ¬ x.Nonempty ↔ x = ∅ := by
+  rw [nonempty_def, not_exists, eq_empty]
+
 theorem eq_empty_or_nonempty (u : ZFSet) : u = ∅ ∨ u.Nonempty := by
   rw [eq_empty, ← not_exists]
   apply em'
 
+@[simp]
+theorem subset_of_empty (x : ZFSet) : x ⊆ ∅ → x = ∅ := by
```
Comment (eric-wieser) [inline Mathlib/SetTheory/ZFC/Basic.lean:292]: This doesn't match the naming convention, which would suggest `empty_of_subset` (hypotheses go _after_ `of`).

In fact you should make this match the corresponding `Set` lemma, which is [`Set.eq_empty_of_subset_empty`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Basic.html#Set.eq_empty_of_subset_empty).

Please try to find the `Set` lemma for each new lemma you contribute here, and adjust the names accordingly.

File: Mathlib/SetTheory/ZFC/Basic.lean [hunk 2]
```diff
@@ -706,6 +782,35 @@ theorem mem_prod {x y z : ZFSet.{u}} : z ∈ prod x y ↔ ∃ a ∈ x, ∃ b ∈
...
 
+@[simp]
+theorem prod_empty_right {x : ZFSet} : x.prod ∅ = ∅ := by
+  ext z; simp
+
+@[simp]
+theorem prod_empty_left {x : ZFSet} : ZFSet.prod ∅ x = ∅ := by
+  ext z; simp
+
+theorem prod_subset_prod_iff {A C B D: ZFSet} (hA : A ≠ ∅) (hC : C ≠ ∅) :
```
Comment (eric-wieser) [inline Mathlib/SetTheory/ZFC/Basic.lean:793]: I can't find [this one for regular `Set`s](https://loogle.lean-lang.org/?q=%28_+%C3%97%CB%A2+_%29+%E2%8A%86+%28_%C3%97%CB%A2_%29); could you add it for `Set` too?

**Comment by eric-wieser** [comment]
Per the contribution guidelines, you'll also need to re-make all these PRs from a branch of this repo, rather than a fork. There should be instructions how to get access there.

**Comment by VTrelat** [comment]
> Per the contribution guidelines, you'll also need to re-make all these PRs from a branch of this repo, rather than a fork. There should be instructions how to get access there.

Thank you for the review @eric-wieser. [I have asked for writing permission on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/github.20permission/near/510922429) but it was rejected and I was [advised to make a separate fork and work from there](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/github.20permission/near/510997301). What shall I do then?

**Comment by grunweg** [comment]
(For other wondering: on zulip, VTrelat was sent a github invite now, so this is waiting on the PR being re-opened from a branch of mathlib.)
